datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:16])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:15],27.6144
[C:0]([H:1])([H:2])[H:3].[S:4][S:5][H:6]>>[C:0]([H:1])([H:2])([H:3])[S:4][S:5][H:6],-3.09616
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:13])([H:11])[H:12],73.6802
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][C:7]([O:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11],35.559816
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]#[C:9][H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]#[C:9][H:10],0.0
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31],103.345
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:11],49.8314
[C:0](=[C:1][C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])[H:8])[H:9])([H:5])[H:6],141.419
[C:0](=[C:1]1[C:2]([H:6])=[C:3]1[H:7])([H:4])[H:5].[H:8]>>[C:0](=[C:1]1[C:2]([H:6])([H:8])[C:3]1[H:7])([H:4])[H:5],7.773872
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],178.406
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][H:32],18.706664
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11](=[S:12])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11](=[S:12])[H:13],53.9736
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6](=[C:5]([H:9])[H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],3.3472
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([H:8])[H:9])[H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5](=[C:6]([H:8])[H:9])[H:7],23.8488
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:0][H:8].[O:1]=[C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9],6.276
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:7],74.7681
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:12],76.6509
